*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-03[uF]/50[V]
* Murata P/N :GRM155R71H682KA88
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H682KA88 Port1 Port2
C01 Port1 N01 6.62e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.93e-10
R03 N02 N03 7.00e-02
C04 N03 N04 7.09e-07
R04 N03 N04 2.90e+03
C05 N04 N05 9.32e-07
R05 N04 N05 1.87e+02
C06 N05 N06 9.41e-07
R06 N05 N06 2.36e+01
C07 N06 N07 6.63e-07
R07 N06 N07 3.57e+00
C08 N07 N08 4.78e-07
R08 N07 N08 5.23e-01
C09 N08 N09 3.02e-07
R09 N08 N09 7.53e-02
L10 N09 N10 2.51e-11
R10 N09 N10 1.18e+00
L11 N10 N11 4.90e-11
R11 N10 N11 2.36e-01
C12 N11 N12 6.36e-09
L12 N11 N12 2.49e-11
R12 N11 N12 6.42e-02
C13 N12 Port2 5.01e-12
L13 N12 Port2 7.00e-11
R13 N12 Port2 1.12e+01
.ENDS GRM155R71H682KA88
